US06380215B1
A mixture of N-[1-{2-(1-benzyloxycarbonyl-4-piperidyloxy)acetyl}-3-piperidylcarbonyl]-β-alanine (1.16 g) and 10% Pd—C (0.23 g, 50% wet) in a solution of 1N HCl (2.44 ml) and tetrahydrofuran (20 ml) was hydrogenated at atmospheric pressure for 2 hours. After the catalyst was removed by filtration, the filtrate was concentrated in vacuo and freeze-dried to give N-[1-{2-(4-piperidyloxy)acetyl}-3-piperidylcarbonyl]-β-alanine hydrochloride (0.69 g).

reactant | N-[1-{2-(1-benzyloxycarbonyl-4-piperidyloxy)acetyl}-3-piperidylcarbonyl]-β-alanine | 1.16 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)OCC(=O)N1CC(CCC1)C(=O)NCCC(=O)O | C24H33N3O7
reactant | HCl | 1N, 2.44 ml | Cl | ClH
catalyst | Pd—C | 0.23 g | [Pd] | Pd
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | N-[1-{2-(4-piperidyloxy)acetyl}-3-piperidylcarbonyl]-β-alanine hydrochloride | 0.69 g | Cl.N1CCC(CC1)OCC(=O)N1CC(CCC1)C(=O)NCCC(=O)O | InChI=1S/C16H27N3O5.ClH/c20-14(11-24-13-3-6-17-7-4-13)19-9-1-2-12(10-19)16(23)18-8-5-15(21)22;/h12-13,17H,1-11H2,(H,18,23)(H,21,22);1H
